Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],1.0036681020799998
[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2](=[C:3]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:4],2.81166193006
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3][C:4]([H:5])([H:6])[O:7][H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12],3.84110635693
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.9443379413300015
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-4.69838531535
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[H:8].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[H:8],-1.92423012697
[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.53750218526
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2][O:3].[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],1.45457275606
[C:1][C:2]#[C:3][O:4][C:5]#[C:6]>>[C:1]#[C:2].[C:3][O:4][C:5]#[C:6],5.04293239002
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@@:6]1([H:7])[C:8][O:9][H:10],-0.32153109255
[C:1][C:2]#[C:4][C:6]([H:7])([H:8])[H:9].[C:3]([H:5])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.5339442185
[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.29941606079
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[O:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.8733463163490001
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[C:4][O:5][C:6]#[C:7],5.21687190527
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-8.09133763661
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.403375488419999
[H:1][O:2][O:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.14311152344
[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:10][H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-4.640589080440001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]#[C:10][H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]1([H:8])[C:9][C:10]1[H:11],1.92524376581
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],6.53030592243
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2],8.29065400068
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6](=[O:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.75616379898
[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10],-5.614724417560001
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:4][C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:3][C:7][H:5],3.30471074334
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][H:7]>>[O:1]=[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.08176219766
[H:11].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-3.0657708616100003
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.43239718729
[H:10].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.3816841906300015
